US05489593
1-[1,1-Dimethylethoxycarbonyl]-4-[3-(2-propenylamino)-2-pyridinyl]piperazine
A mixture of 1-[1,1-dimethylethoxycarbonyl]-4-[3-amino-2-pyridinyl]piperazine (International Publication 88/08424, 2.78 g), 2-bromopropene (1.87 g), anhydrous potassium carbonate (3.3 g) and acetonitrile (100 ml) is refluxed for 36 hr. The mixture is cooled and then diluted with dichloromethane and aqueous potassium carbonate solution. The phases are separated and the organic phase is washed with saline and than concentrated in vacuo. Purification by flash column chromatography (2% methanol/chloroform) provided of the title compound. Capillary GC analysis (HP1 column, initial temperature at 100° for 1 min, then programmed to rise 20° per minute to 250°) gave a peak at 6.06 (96%) minutes.

reactant | 1-[1,1-dimethylethoxycarbonyl]-4-[3-amino-2-pyridinyl]piperazine | 2.78 g | CC(C)(OC(=O)N1CCN(CC1)C1=NC=CC=C1N)C | C14H22N4O2
reactant | 2-bromopropene | 1.87 g | BrC(=C)C | C3H5Br
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | potassium carbonate | 3.3 g | C([O-])([O-])=O.[K+].[K+]
product | 1-[1,1-Dimethylethoxycarbonyl]-4-[3-(2-propenylamino)-2-pyridinyl]piperazine | CC(C)(OC(=O)N1CCN(CC1)C1=NC=CC=C1NCC=C)C | C17H26N4O2
